US09029414B2
Cortical Neuron Survival Assay Against Kainate Excitotoxicity
Cortical neurons were prepared from embryonic day 18 Sprague-Dawley rats. After the cortices had been removed from the brain, isolated cells were plated onto Poly d-Lysine (PDL) (P0899, Sigma)-coated 48 well plates (150687, NUNC) at a density of 2×105 cell per well using Neurobasal Medium (NB) (21103-049, Gibco) with B27 supplement (17504-044, Gibco), penicillin/streptomycin (15140, Gibco) and 1 mM L-glutamine (25030, Gibco). The cell culture was incubated at 37° C. in a humidified atmosphere of 5% CO2 in air. Medium was changed to growth medium (Neurobasal Medium with penicillin/streptomycin and B27 supplement) after 3 hours. Half medium was changed with growth medium every 2-3 days to maintain the cells until day 10 in vitro (DIV 10). Serial dilutions of samples were prepared in growth medium and DMSO was used as vehicle control. For pre-treating assay, half of the medium was removed from wells, and equal amount of diluted samples were replaced. Cells were then incubated for 2 hours at 37° C. in a humidified atmosphere of 5% CO2 in air. Culture was subsequently rinsed with Locke's solution (5 mM potassium chloride, 128 mM sodium chloride, 2.7 mM calcium chloride, 1 mM di-sodium hydrogen orthophosphate, 5 mM HEPES and 10 mM Glucose in Milli-Q water), then incubated with Locke's solution in the presence of glycine (10 μM) for 15 minutes before N-Methyl-D-Aspartic Acid (NMDA) (M-3262, Sigma) treatment. Kainate dissolved in Locke's plus glycine solution was then substituted and incubated for 20 minutes at 37° C. For co-treated kainate assay, serial dilutions of samples were prepared in Locke's solution plus glycine and kainate solution and incubated for 20 minutes at 37° C., 5% CO2. Afterwards, cells were incubated in growth medium for 18-24 hours and detected with Cytotoxicity Detection Kit (1644793, Roche).

reactant | penicillin streptomycin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+].C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O
reactant | L-glutamine | 1 mM | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | CO2 | C(=O)=O | CO2
solvent | DMSO | CS(=O)C | C2H6OS
product | Kainate | CC(=C)[C@H]1CN[C@@H]([C@H]1CC(=O)O)C(=O)O | C10H15NO4
